US07129238B2
(RS)-(2,6-Difluoro-4-hydroxy-phenyl)-ethoxy-acetic acid ethyl ester (500 mg) was dissolved in CH2Cl2 (20 ml). Cu(OAc)2 (349 mg), 4-methoxyphenylboronic acid (876 mg) and MS4 Å were added followed by pyridine (760 mg). The mixture was stirred over night before filtration and evaporation of the solvent. CC (Hept/CH2Cl2 1:4) afforded 455 mg (65%) of (RS)-[2,6-difluoro-4-(4-methoxy-phenoxy)-phenyl]-ethoxy-acetic acid ethyl ester. Yellow oil.

reactant | (RS)-(2,6-Difluoro-4-hydroxy-phenyl)-ethoxy-acetic acid ethyl ester | 500 mg | C(C)OC(C(OCC)C1=C(C=C(C=C1F)O)F)=O | C12H14F2O4
reactant | 4-methoxyphenylboronic acid | 876 mg | COC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | pyridine | 760 mg | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
catalyst | Cu(OAc)2 | 349 mg | CC(=O)[O-].CC(=O)[O-].[Cu+2]
product | (RS)-[2,6-difluoro-4-(4-methoxy-phenoxy)-phenyl]-ethoxy-acetic acid ethyl ester | 455 mg, 65% | C(C)OC(C(OCC)C1=C(C=C(C=C1F)OC1=CC=C(C=C1)OC)F)=O | C19H20F2O5
